US07947683B2
4-methyl-3-(4-penten-1-yl)-5-phenyl-4H-1,2,4-triazole
To a solution of N,N′-dimethyl-5-hexenimidamide hydrochloride (3.1Mmol) in MeOH (20 ml) were added K2CO3 (3.1Mmol) and benzhydrazide (3.1Mmol). The solution was heated to reflux for 24 h. Volatiles were evaporated in vacuo, the crude dissolved in DCM, washed with water and dried over Na2SO4. After filtration and concentration to dryness in vacuo, the crude was purified by column chromatography (DCM:MeOH=98 to 2) to give 196 mg of the title compound.

reactant | N,N′-dimethyl-5-hexenimidamide hydrochloride | 3.1Mmol | Cl.CNC(CCCC=C)=NC
reactant | K2CO3 | 3.1Mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | benzhydrazide | 3.1Mmol | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
solvent | MeOH | 20 ml | CO | CH4O
product | 4-methyl-3-(4-penten-1-yl)-5-phenyl-4H-1,2,4-triazole | 196 mg | CN1C(=NN=C1C1=CC=CC=C1)CCCC=C | C14H17N3
